* Task 3 A
.model mynpn npn(BF=100, IS=5e-17, VJC=.75)

Vcc Vcc 0 2.5

Q1 Q1C Q1B Q1E mynpn

R1 Vcc Q1B 28906
R2 Q1B 0 22.8k
RC Vcc Q1C 500
RE1 Q1E 0 500

Cb 0 Q1B 1m

Vin Vin 0 SIN(0 .001 500)
Cin1 Vin Q1E 1m

Cout Q1C OUT 2m

Q2 Vcc Q2B Q2E mynpn

Re2 Q2E 0 10
Rb Q2B Vcc 5930

Cin2 OUT Q2B 2m

.tran 0 106m 100m
