* Task 1 A, B, C
.model mynpn npn(BF=100, IS=5e-17, VJC=.75)

Vcc Vcc 0 2.5

Q1 Q1C Q1B Q1E mynpn

R1 Vcc Q1B 28906
R2 Q1B 0 22.8k
RC Vcc Q1C 500
RE Q1E 0 500

Cb 0 Q1B 1m

Vin Vin 0 SIN(0 .001 500)
Cin Vin Q1E 1m

Cout Q1C OUT 1m

Rload OUT 0 100k

.tran 0 106m 100m
